US08604034B2
To a chilled solution of methyl 2-pyrrole carboxylate (200 mg, 1.6 mmol) in dry DMF (5 mL) was added sodium hydride (60% dispersion in mineral oil, 160 mg, 4.0 mmol) portionwise under nitrogen. Extra DMF (2 mL) was added and the suspension was stirred for 30 minutes. 3-(Bromoacetyl)pyridine hydrobromide (600 mg, 2.1 mmol) was added portionwise and the mixture was allowed at room temperature and stirred overnight. Saturated aqueous solution of aqueous NH4Cl (10 mL) followed by EtOAc (30 mL) were added. The organic layer was washed with brine (10 mL), dried (MgSO4), filtered and concentrated in vacuo to give an orange liquid that was purified by flash chromatography (Biotage SP4, 40 g cartridge, gradient 0-80% EtOAc in hexanes) to yield methyl 1-[2-oxo-2-(pyridin-3-yl)ethyl]-1H-pyrrole-2-carboxylate as a colourless oil (75 mg, yield 19%). 1H-NMR (400 MHz, CDCl3): δ 3.72 (s, 3H), 5.72 (s, 2H), 6.26 (dd, 1H, J 4.0, 2.6 Hz), 6.85 (dd, 1H, J 2.6, 1.8 Hz), 7.04 (dd, 1H, J 4.0, 1.8 Hz), 7.46 (ddd, 1H, J 7.9, 4.8, 0.8 Hz), 8.25-8.28 (m, 1H), 8.83 (dd, 1H, J 4.8, 1.7 Hz), 9.21 (dd, 1H, J 0.8, 2.2 Hz).

reactant | methyl 2-pyrrole carboxylate | 1.6 mmol, 200 mg | N1C(=CC=C1)C(=O)OC | C6H7NO2
reactant | sodium hydride | 4.0 mmol, 160 mg | [H-].[Na+]
reactant | 3-(Bromoacetyl)pyridine hydrobromide | 2.1 mmol, 600 mg | Br.BrCC(=O)C=1C=NC=CC1
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | methyl 1-[2-oxo-2-(pyridin-3-yl)ethyl]-1H-pyrrole-2-carboxylate | 75 mg, yield 19% | O=C(CN1C(=CC=C1)C(=O)OC)C=1C=NC=CC1 | C13H12N2O3
